US07468375B2
Step 1: (6S)-4,5,6,7-Tetrahydro-3H-imidazo[4,5-c]pyridine-6-carboxylic acid dihydrochloride.
L-Histidine (204.8 g, 1.32 mol) was added to water (1.2 L) and cooled in an ice/water bath. Concentrated hydrochloric acid (116.0 mL, 1.39 mol, 1.05 mol eq.) was added slowly. Formaldehyde (37 wt/wt % in water, 112.5 g, 1.39 mol, 1.05 mol eq.) was added in one portion. The reaction mixture was stirred for 30 min upon cooling with an ice/water bath, and then refluxed for 75 min. After cooling to room temperature, the solvent was removed under reduced pressure. The residue was suspended in isopropanol (2 L) and HCl (400 mL of a 4 M solution in dioxane) for 30 min. The white solid was filtered and washed with ether. After drying in a vacuum oven (40° C.), the title product was obtained. (313.0 g, 99% yield, 95% pure). 1H NMR (DMSO-d6): 8 ppm 3.05-3.33 (m, 2H), 4.30 (s, 2H), 4.54 (m, 1H), 9.00 (s, 1H), 12.60 (br s, 3H). LCMS: Rt=0.59 min, and M+1=168.1 m/z (M+1 of free base).

reactant | L-Histidine | 1.32 mol, 204.8 g | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | hydrochloric acid | 1.39 mol, 116.0 mL | Cl | ClH
reactant | Formaldehyde | 1.39 mol, 112.5 g | C=O | CH2O
solvent | water | 1.2 L | O | H2O
product | (6S)-4,5,6,7-Tetrahydro-3H-imidazo[4,5-c]pyridine-6-carboxylic acid dihydrochloride | 99% yield | Cl.Cl.N1=CNC=2CN[C@@H](CC21)C(=O)O | InChI=1S/C7H9N3O2.2ClH/c11-7(12)5-1-4-6(2-8-5)10-3-9-4;;/h3,5,8H,1-2H2,(H,9,10)(H,11,12);2*1H/t5-;;/m0../s1
